US07166598B2
A solution of benzyloxycarbonyl chloride (0.75 g) in dichloromethane (1 ml) was added dropwise over 5 minutes to an ice-cooled solution of 2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]piperazine (1.27 g) obtained by above procedure and triethylamine (2.2 ml) in dichloromethane (10 ml) below 5° C. After the mixture was stirred for 30 minutes at the same temperature, a solution of 3,5-bis(trifluoromethyl)-benzoyl chloride (0.93 ml) in dichloromethane (1.0 ml) was added dropwise to the mixture over 10 minutes below 5° C. After being stirred for 30 minutes at the same temperature, the reaction mixture was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using mixed solvents of toluene and ethyl acetate (5:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give 1-[3,5-bis(trifluoromethyl)benzoyl]-4-(benzyloxycarbonyl)-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]piperazine (1.61 g) as an oil.

reactant | benzyloxycarbonyl chloride | 0.75 g | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | 2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]piperazine | 1.27 g | COCCOCOC=1C=C(CC2NCCNC2)C=CC1C | C16H26N2O3
reactant | triethylamine | 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-bis(trifluoromethyl)-benzoyl chloride | 0.93 ml | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 ml | ClCCl | CH2Cl2
product | 1-[3,5-bis(trifluoromethyl)benzoyl]-4-(benzyloxycarbonyl)-2-[3-[(2-methoxyethoxy)methoxy]-4-methylbenzyl]piperazine | 1.61 g | FC(C=1C=C(C(=O)N2C(CN(CC2)C(=O)OCC2=CC=CC=C2)CC2=CC(=C(C=C2)C)OCOCCOC)C=C(C1)C(F)(F)F)(F)F | C33H34F6N2O6
